US06919335B2
3-[(4-Methoxyphenyl)methoxy]benzoic acid methyl ester
To a solution of methyl-3-hydroxybenzoate (5.0 g, 32.8 mmol) in acetone (30 mL) was added potassium carbonate (6.82 g, 49.2 mmol) and p-methoxybenzyl chloride (4.5 mL, 32.8 mmol). The contents are heated under reflux for forty eight hours, concentrated under pressure and partitioned between ethyl acetate (100 mL) and water (100 mL). The ethyl acetate layer was dried over sodium sulfate and concentrated to yield the title compound (8.87 g, 99%). 1H NMR (CDCl3): □ 7.8 (m, 2H), 7.4 (m, 3H), 7.15 (m, 1H), 6.9 (d, 2H), 5.1 (s, 2H), 3.9 (s, 3H), 3.8 (s, 3H).

reactant | methyl-3-hydroxybenzoate | 32.8 mmol, 5.0 g | COC(C1=CC(=CC=C1)O)=O | C8H8O3
reactant | potassium carbonate | 49.2 mmol, 6.82 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-methoxybenzyl chloride | 32.8 mmol, 4.5 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 3-[(4-Methoxyphenyl)methoxy]benzoic acid methyl ester | 8.87 g, 99% | COC(C1=CC(=CC=C1)OCC1=CC=C(C=C1)OC)=O | C16H16O4
